US07645784B2
2-Chloro-3-nitrobenzenesulfonyl chloride (235 mg, 0.918 mmol) was treated with a 2 M solution of dimethylamine in methanol (0.55 mL, 1.10 mmol), and triethylamine (0.13 mL, 0.918 mmol) in methanol (1 mL), and the suspension was stirred at room temperature for 2.5 h. The volatiles were removed in vacuo, and the residue was purified by column chromatography using heptane/ethyl acetate, 70:30-50:50 as an eluent, affording 2-chloro-N,N-dimethyl-3-nitrobenzenesulfonamide, 202 mg (83%) as a white solid. MS (ESI) m/z 265 [M+H]. 1H NMR (400 MHz, CDCl3) δ ppm 2.95 (s, 6 H); 7.56 (t, J=8.0 Hz, 1H), 7.88 (dd, J=8.1, 1.5 Hz, 1H), 8.31 (dd, J=8.1, 1.5 Hz, 1H).

reactant | 2-Chloro-3-nitrobenzenesulfonyl chloride | 0.918 mmol, 235 mg | ClC1=C(C=CC=C1[N+](=O)[O-])S(=O)(=O)Cl | C6H3Cl2NO4S
reactant | dimethylamine | CNC | C2H7N
reactant | triethylamine | 0.918 mmol, 0.13 mL | C(C)N(CC)CC | C6H15N
solvent | methanol | 1 mL | CO | CH4O
solvent | methanol | 1.10 mmol, 0.55 mL | CO | CH4O
product | 2-chloro-N,N-dimethyl-3-nitrobenzenesulfonamide | ClC1=C(C=CC=C1[N+](=O)[O-])S(=O)(=O)N(C)C | C8H9ClN2O4S
